US04129520
17.4 g. (0.1 mole) of dimethyl adipate were dissolved in 100 mls. of acetonitrile and heated to 70° C. 8.2 g. (0.2 mole) of 97% pure sodium hydroxide were added to the reaction mixture as a fine powder (50 mesh). The reaction mixture was stirred at reflux temperature for 18 hours. The resulting solution was filtered hot and the solids were air dried to yield disodium adipate as the reaction product.

reactant | dimethyl adipate | 0.1 mole | C(CCCCC(=O)OC)(=O)OC | C8H14O4
reactant | sodium hydroxide | 0.2 mole | [OH-].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
product | disodium adipate | C(CCCCC(=O)[O-])(=O)[O-].[Na+].[Na+] | InChI=1S/C6H10O4.2Na/c7-5(8)3-1-2-4-6(9)10;;/h1-4H2,(H,7,8)(H,9,10);;/q;2*+1/p-2
